US07598423B2
Synthesis of 1-(4-Amino-2-hydroxy-3-methyl-phenyl)-ethanone
To a solution of 1-(2-hydroxy-3-methyl-4-nitro-phenyl)-ethanone (720 mg, 3.7 mmol) in EtOH (30 mL) are consecutively added Fe powder (4 g, 74 mmol), water (7.2 mL), and conc. HCl (145 μL). The reaction mixture is heated at 95° C. for 4 h. The iron is filtered through celite and the filtrate poured slowly into saturated aqueous NaHCO3. After the bubbling subsides, the mixture is extracted with EtOAc (3×). The organic layers are combined, washed with brine, dried over Na2SO4, and concentrated. The residue is purified by 25% EtOAc/hexane. Obtained is the title compound as a white solid (455 mg). LC-MS (m/e): 166 (M+1).

reactant | 1-(2-hydroxy-3-methyl-4-nitro-phenyl)-ethanone | 3.7 mmol, 720 mg | OC1=C(C=CC(=C1C)[N+](=O)[O-])C(C)=O | C9H9NO4
reactant | water | 7.2 mL | O | H2O
reactant | HCl | 145 μL | Cl | ClH
solvent | EtOH | 30 mL | CCO | C2H6O
catalyst | Fe | 74 mmol, 4 g | [Fe] | Fe
product | 1-(4-Amino-2-hydroxy-3-methyl-phenyl)-ethanone | 455 mg | NC1=C(C(=C(C=C1)C(C)=O)O)C | C9H11NO2
